US07012075B2
To L-leucine methyl ester hydrochloride (1.427 g, 7.855 mmol), 4-bromobenzaldehyde (1.451 g, 7.855 mmol), and MgSO4 (0.1 g/mmol, 1 g) in CH2Cl2 (20 mL) was added triethylamine (840 μL, 8.25 mmol) dropwise and the reaction mixture was stirred overnight. The heterogeneous solution was filtered over celite, the filter cake washed several times with CH2Cl2 and the filtrate was concentrated in vacuo. The residue was dissolved in a minimal amount of MeOH and NaBH4 (300 mg, 7.855 mmol) was added portionwise at 0° C. and the reaction mixture was stirred for 3.5 hours. The reaction was quenched with water and the product was extracted with EtOAc (2×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex, 2/8) to afford methyl (2S)-2-[(4-bromobenzyl)amino]-4-methylpentanoate.

reactant | L-leucine methyl ester hydrochloride | 7.855 mmol, 1.427 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | 4-bromobenzaldehyde | 7.855 mmol, 1.451 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | MgSO4 | 1 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | triethylamine | 8.25 mmol, 840 μL | C(C)N(CC)CC | C6H15N
reactant | NaBH4 | 7.855 mmol, 300 mg | [BH4-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | methyl (2S)-2-[(4-bromobenzyl)amino]-4-methylpentanoate | BrC1=CC=C(CN[C@H](C(=O)OC)CC(C)C)C=C1 | C14H20BrNO2
